US05442063
95% Sodium hydroxide (0.32 g, 7.5 mmol), acetone (5 ml) and butyl nitrite (0.62 g, 6 mmol) were added to 2-(2,5dimethylphenoxymethyl)benzyl cyanide (1.26 g, 5 mmol). The mixture was stirred at room temperature for 2 hours. Dimethyl sulfate (0.95 g, 7.5 mmol) was added, and the mixture was stirred under ice-cooling for 10 minutes and at room temperature for 1 hour. After completion of the reaction, toluene (10 ml) and 1N aqueous sodium hydroxide solution (10 ml) were added, and the mixture was stirred at room temperature for 1 hour. After stirring, water (100 ml) was added. The mixture was extracted with ether (100 ml), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to give 2-(2,5-dimethylphenoxymethyl)-α-methoxyiminobenzyl cyanide (1.29 g, Yield: 87.6%, E/Z=13/87 ).

reactant | Sodium hydroxide | 7.5 mmol, 0.32 g | [OH-].[Na+]
reactant | butyl nitrite | 6 mmol, 0.62 g | N(=O)OCCCC | C4H9NO2
reactant | 2-(2,5dimethylphenoxymethyl)benzyl cyanide | 5 mmol, 1.26 g | CC1=C(OCC2=C(CC#N)C=CC=C2)C=C(C=C1)C | C17H17NO
reactant | Dimethyl sulfate | 7.5 mmol, 0.95 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 2-(2,5-dimethylphenoxymethyl)-α-methoxyiminobenzyl cyanide | 1.29 g, Yield: 87.6% | CC1=C(OCC2=C(C(=NOC)C#N)C=CC=C2)C=C(C=C1)C | C18H18N2O2
